US07309703B2
A. 4-Benzo[d]isoxazol-3-yl-piperazine-1-carboxylic acid tert-butyl ester
To a stirred solution of 100 mg (0.65 mmol) of 3-chloro-1,2-benzisoxazole in pyridine (1 mL) was added 145 mg of piperazine-1-carboxylic acid tert-butyl ester (0.78 mmol) and 0.18 mL of DBU (0.78 mmol). The mixture was stirred at 100° C. overnight and then partitioned between EtOAC (50 mL) and water (20 mL) and separated. The aqueous layer was extracted with EtOAC (2×30 mL). The combined organic layers were then washed with water (25 mL), brine, dried over Na2SO4, and the solvent was removed under reduced pressure to give crude product. Purification by column chromatography (silica, 60-100% CH2Cl2/hexanes) gave 82 mg (42%) of the desired product as a light yellow solid. MS (electrospray): exact mass calculated for C16H21N3O3, 303.16; m/z found, 326.1 [M+Na]+. 1H NMR (CDCl3, 400 MHz): 7.68 (dt, J=8.02, 0.98 Hz, 1H), 7.52-7.44 (m, 2H), 7.24 (ddd, J=8.42, 6.46, 1.57 Hz, 1H), 3.66-3.61 (m, 4H), 3.56-3.49 (m, 4H), 1.49 (s, 9H).

reactant | 3-chloro-1,2-benzisoxazole | 0.65 mmol, 100 mg | ClC1=NOC2=C1C=CC=C2 | C7H4ClNO
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.78 mmol, 145 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DBU | 0.78 mmol, 0.18 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 4-Benzo[d]isoxazol-3-yl-piperazine-1-carboxylic acid tert-butyl ester | 82 mg, 42% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NOC2=C1C=CC=C2 | C16H21N3O3
